US04555570
2'-(N-2-Carbethoxyethylamino)-3',6'-dimethoxyacetophenone
Triethylamine (19.4 g, 192 mM) was added to a mixture of 2'-amino-3',6'-dimethoxyacetophenone (2.5 g, 128 mM) and ethyl 3-bromopropionate (139 g, 770 mM) in a 250 mL flask. The pale solid complex so formed was stirred at 135° for 2 hours with a large and heavy stirring bar. During this time the complex became a homogeneous brown oil. This oil was cooled to 10° C. and 200 mL of 2% NaHCO3 was added to the reaction mixture. The solution was then extracted with CHCl3 (3×100 mL) and the organic layer washed with H2O (100 mL) and then dried over MgSO4. After filtration, the CHCl3 and most of the bromopropionate were removed under reduced pressure. The oily residue was put on a 10×60 cm, SilicAR CC-7 column (500 g) and eluted with 5-20% ethyl acetate/hexane, collecting 1 L fractions. Evaporation of fractions 5 and 6 gave purified 2'-(N-2-carbethoxyethylamino)-3',6'-dimethoxyacetophenone (9.97 g, 26%); IR (neat) μ: 3.3 (CH), 5.78 (CO2Et), 5.8 (COCH3), 6.25 (Ar).

reactant | 2'-amino-3',6'-dimethoxyacetophenone | 128 mM, 2.5 g | NC1=C(C(=CC=C1OC)OC)C(C)=O | C10H13NO3
reactant | ethyl 3-bromopropionate | 770 mM, 139 g | BrCCC(=O)OCC | C5H9BrO2
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | Triethylamine | 192 mM, 19.4 g | C(C)N(CC)CC | C6H15N
product | 2'-(N-2-Carbethoxyethylamino)-3',6'-dimethoxyacetophenone | C(=O)(OCC)CCNC1=C(C(=CC=C1OC)OC)C(C)=O | C15H21NO5
